US06727264B1
1,2-DICHLORO-4-{[(1S)-3-CHLORO-1-PHENYLPROPYL]OXY}BENZENE:
Prepared by Procedure A using 3,4-dichlorophenol and (1R)-3-chloro-1-phenyl-1-propanol.

reactant | 3,4-dichlorophenol | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | (1R)-3-chloro-1-phenyl-1-propanol | ClCC[C@@H](O)C1=CC=CC=C1 | C9H11ClO
product | 1,2-DICHLORO-4-{[(1S)-3-CHLORO-1-PHENYLPROPYL]OXY}BENZENE | ClC1=C(C=C(C=C1)O[C@@H](CCCl)C1=CC=CC=C1)Cl | C15H13Cl3O
